US09278978B2
H28) tert-butyl-N-methyl-N-(1-{[6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-yl]-carbamoyl}ethyl)carbamate
A mixture of 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid (1.44 g, 7.1 mmol) and N,N′-dicyclohexylcarbodiimide (0.73 g, 3.55 mmol) in DCM (4 ml) is stirred for 30 minutes at RT. This mixture is added in 4 portions over 48 h via syringe filter to a mixture of 6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine G1 (0.24 g, 0.89 mmol), DIPEA (166 μl, 0.98 mmol) and NMP (2 ml) at 50° C. After stirring for another 16 h at 50° C. the mixture is filtered and the product purified by RP HPLC. Yield: 56 mg (14%). HPLC-MS: M+H=457; tR=.2.08 min (METHOD—2).

reactant | 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid | 7.1 mmol, 1.44 g | CN(C(C(=O)O)C)C(=O)OC(C)(C)C | C9H17NO4
reactant | N,N′-dicyclohexylcarbodiimide | 3.55 mmol, 0.73 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine | C1(=CC=CC=C1)C#CC1=CC(=CC(=N1)N)C1=CC=NC=C1 | C18H13N3
reactant | DIPEA | 0.98 mmol, 166 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | tert-butyl-N-methyl-N-(1-{[6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-yl]-carbamoyl}ethyl)carbamate | C(C)(C)(C)OC(N(C(C)C(NC1=NC(=CC(=C1)C1=CC=NC=C1)C#CC1=CC=CC=C1)=O)C)=O | C27H28N4O3
